US08754054B2
To a solution of the ketone from Step A of the preparation of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,5R,6S)-4-(hydroxyimino)-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate [Isomer A] (Example 48) (53 mg, 0.076 mmol) in methanol (1 mL) was added methoxylamine hydrochloride (6.4 mg, 0.076 mmol) and pyridine (0.1 mL) at room temperature. The mixture was stirred under nitrogen for 2 h. The reaction mixture was quenched with 1N HCl and extracted with ethyl acetate. The combined extracts were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by preparative TLC (silica gel, 95:5 chloroform/methanol) to afford (6R,6aS,14aR)-methyl 11-((2S,3R,5R,6S,Z)-3,5-dimethoxy-4-(methoxyimino)-6-methyltetrahydro-2H-pyran-2-ylamino)-1,6,8,14a-tetrahydroxy-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (30 mg, 54%) as a red solid: 1H NMR (500 MHz, CDCl3) δ 14.15 (s, 1H), 12.09 (s, 1H), 8.20 (s, 1H), 7.00 (d, J=8.0 Hz, 1H), 6.54 (s, 1H), 5.86 (s, 1H), 5.21 (s, 1H), 4.98-4.94 (m, 2H), 4.67-4.64 (m, 2H), 3.97 (s, 3H), 3.84 (s, 3H), 3.71 (d, J=9.5 Hz, 1H), 3.59 (s, 3H), 3.57-3.52 (m, 2H), 3.47 (s, 3H), 3.40 (s, 3H), 3.34 (d, J=19.5 Hz, 1H), 2.40 (s, 3H), 1.38 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 725 (M+H); HPLC 95.9% (AUC), tR 17.05 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,5R,6S)-4-(hydroxyimino)-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H](C([C@H]2OC)=NO)OC)C)=O)=O)O)C)C(=O)OC | C34H34N2O15
reactant | methoxylamine hydrochloride | 0.076 mmol, 6.4 mg | Cl.O(C)N
reactant | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
solvent | methanol | 1 mL | CO | CH4O
product | (6R,6aS,14aR)-methyl 11-((2S,3R,5R,6S,Z)-3,5-dimethoxy-4-(methoxyimino)-6-methyltetrahydro-2H-pyran-2-ylamino)-1,6,8,14a-tetrahydroxy-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 30 mg, 54% | CO[C@H]\1[C@H](O[C@H]([C@@H](/C1=N/OC)OC)C)NC1=CC(C=2C(=C3C([C@@]4([C@@H](CC5=C([C@@]4(C(C3=CC2C1=O)=O)O)C(=C(C(=C5)C)C(=O)OC)O)O)OC)=O)O)=O | C35H36N2O15
